US04171366
A solution of 10.8 g (0.04 mole) of phosphorus tribromide in 150 ml of chloroform is added dropwise at 5° within 45 minutes, with stirring, to a suspension of 21.4 g (0.1 mole) of naphtho [1,2-b]thiophene-2-methanol in 110 ml of chloroform, with the gradual formation of a solution. The reaction mixture is stirred for a further 5 hours at 5°, and ice water is subsequently added. The organic phase is separated, washed twice with water and, after drying over sodium sulphate, concentrated at a maximum of 40° in vacuo. The 2-(bromomethyl)-naphtho[1,2-b] thiophene obtained as residue crystallises on addition of diethyl ether, and melts at 75°-78°.

reactant | phosphorus tribromide | 0.04 mole, 10.8 g | P(Br)(Br)Br | Br3P
reactant | naphtho [1,2-b]thiophene-2-methanol | 0.1 mole, 21.4 g | S1C2=C(C=C1CO)C=CC1=CC=CC=C12 | C13H10OS
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 110 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(bromomethyl)-naphtho[1,2-b] thiophene | BrCC1=CC2=C(S1)C1=CC=CC=C1C=C2 | C13H9BrS
